US06844338B2
(1-Methylethyl)sulfamoyl chloride (6.63 g, 0.034 mol) was added dropwise to a solution of 4-(methylthio) aniline (4.48 g, 0.032 mol) and triethylamine (4.87 ml, 0.035 mol) in dry dichloromethane (100 ml) at 0° C. under a nitrogen atmosphere. After addition, the resultant mixture was allowed to warm to room temperature and was stirred for 6 hr. The reaction mixture was further extracted with dichloromethane and the organic extracts washed with water (2×50 ml), dried (MgSO4) and concentrated in vacuo to yield N-(4-methylthiophenyl)-N′-(1-methylethyl)sulfamide as a white solid. δ (1H NMR, DMSO, ppm): 0.8 (6H, d), 2.3 (3H, s), 3.2 (1H, m), 3.35 (1H, s), 6.9-7.1 (4H, m), 9.5 (1H, s). M.P. 65-68° C.

reactant | (1-Methylethyl)sulfamoyl chloride | 0.034 mol, 6.63 g | CC(C)NS(=O)(=O)Cl | C3H8ClNO2S
reactant | 4-(methylthio) aniline | 0.032 mol, 4.48 g | CSC1=CC=C(N)C=C1 | C7H9NS
reactant | triethylamine | 0.035 mol, 4.87 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | N-(4-methylthiophenyl)-N′-(1-methylethyl)sulfamide | CSC1=CC=C(C=C1)NS(=O)(=O)NC(C)C | C10H16N2O2S2
